US04067720
0.5 ml of triethylamine and 10 ml of methyl isocyanate were added to a solution of 9 g of 3-hydroxy-5-phenyl-1,2,4-thiadiazole in 100 ml of tetrahydrofuran and the mixture was stirred at 20° C for an hour and then was vacuum filtered. The crystals recovered were crystallized from acetic acid to obtain 10 g of 2-(N-methylcarbamoyl)-5-phenyl-1,2,4-thiadiazole-3-one melting at 210° C.

reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | 10 ml | CN=C=O | C2H3NO
reactant | 3-hydroxy-5-phenyl-1,2,4-thiadiazole | 9 g | OC1=NSC(=N1)C1=CC=CC=C1 | C8H6N2OS
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(N-methylcarbamoyl)-5-phenyl-1,2,4-thiadiazole-3-one | 10 g | CNC(=O)N1SC(=NC1=O)C1=CC=CC=C1 | C10H9N3O2S
